US08198331B2
Modulation of Cortical/Hippocampal Acetylcholine Serotonin Release by 11β-HSD1 Inhibition
Microdialysis studies (resting or challenging conditions) in freely moving, male Sprague Dawley rats (Janvier, 295-315 g, n=5-8/treatment group) were performed using stereotactically instrumented microdialysis probes (CMA/12-14-2): mPFC, hippocampus. Aliquots of the same microdialysate fractions (6 before, and 9-12 after compound administration) were analyzed either for acetylcholine or for serotonin by HPLC and electrochemical detection.

reactant | acetylcholine | C(C)(=O)OCC[N+](C)(C)C
reactant | serotonin | C1=CC2=C(C=C1O)C(=CN2)CCN | C10H12N2O
product | Acetylcholine Serotonin | C(C)(=O)OCC[N+](C)(C)C.C1=CC2=C(C=C1O)C(=CN2)CCN | InChI=1S/C10H12N2O.C7H16NO2/c11-4-3-7-6-12-10-2-1-8(13)5-9(7)10;1-7(9)10-6-5-8(2,3)4/h1-2,5-6,12-13H,3-4,11H2;5-6H2,1-4H3/q;+1
